US08487093B2
Step 3: Benzyl 4-{[1-(tert-butoxycarbonyl)-5-oxo-L-prolyl]amino}piperidine-1-carboxylate
2-Hydroxypyridine-N-oxide (811 g, 7.3 mol), L-pyroglutamic acid (9.43 kg, 73 mol), benzyl 4-aminopiperidine-1-carboxylate (17.1 kg in dichloromethane, volume 120 L, 73 mol) and dichloromethane (80 kg) were mixed together and aged at 20° C. for 10 minutes to form a thick slurry. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (16.8 kg, 87.6 mol) was added in portions to the slurry, while keeping temperature at <30° C. The slurry was then aged at 25° C. for 30 minutes, after which 1M hydrochloric acid (94 kg, 85.5 mol) was added. The phases were left to settle overnight and then separated, and the organic phase was then washed with 2M sodium carbonate (109 kg) and then solvent switched to acetonitrile, final volume 50 L. Toluene (88.2 kg) was added and the batch cooled to 0° C. Di-tert-butyl dicarbonate (18.32 kg, 83.95 mol) and 4-dimethylaminopyridine (223 g, 1.83 mol) were added to the batch and the solution was warmed to 25° C. and aged overnight. The batch was then concentrated by distillation to a volume of 80 L. Additional toluene (88.2 kg) was added and the batch further concentrated to 50 L. Isopropyl acetate (30 kg) was added and the resulting slurry was aged for 10 minutes. Heptane (70 kg) was then added dropwise to the slurry over 30 minutes, and the slurry was aged for 30 minutes then filtered, washed with isopropyl acetate/heptane (22.5 kg/17.4 kg), and then dried in vacuo at 55° C. to afford the title product as a white solid (27.5 kg, 95.5 wt %, 82%). 1H NMR (CDCl3) 7.33 (5H, m), 6.19 (1H, m), 5.13 (2H, s), 4.48 (1H, dd), 4.15 (2H, m), 3.97 (1H, m), 2.95 (2H, m), 2.73 (1H, d tr), 4.65 (1H, m), 2.61 (1H, m), 2.18 (2H, m), 1.45 (9H, s) and 1.30 (2H, m).

reactant | 2-Hydroxypyridine-N-oxide | 7.3 mol, 811 g | OC1=[N+](C=CC=C1)[O-] | C5H5NO2
reactant | L-pyroglutamic acid | 73 mol, 9.43 kg | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | benzyl 4-aminopiperidine-1-carboxylate | 73 mol, 120 L, 17.1 kg | NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 87.6 mol, 16.8 kg | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 85.5 mol, 1M, 94 kg | Cl | ClH
reactant | Di-tert-butyl dicarbonate | 83.95 mol, 18.32 kg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 1.83 mol, 223 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 80 kg | ClCCl | CH2Cl2
product | Benzyl 4-{[1-(tert-butoxycarbonyl)-5-oxo-L-prolyl]amino}piperidine-1-carboxylate | 27.5 kg, 82% | C(C)(C)(C)OC(=O)N1[C@H](C(=O)NC2CCN(CC2)C(=O)OCC2=CC=CC=C2)CCC1=O | C23H31N3O6
